US07211572B2
To a solution of 3-benzyloxy-1-(2,2-dimethoxyethyl)-5-formyl-4-oxo-1,4-dihydropyridine-2-carboxylic acid 3-chlorobenzylamide (168 mg) in tetrahydrofuran (6 ml) was added dropwise 0.89 M ethylmagnesium bromide (1.09 ml) with stirring at −78° C. After stirring at the same temperature for 10 min, 5% aqueous potassium hydrogen sulfate solution was added, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried and concentrated. The obtained residue was purified by silica gel column chromatography (ethyl acetate:hexane=2:1–4:1) to give 3-benzyloxy-1-(2,2-dimethoxyethyl)-5-(1-hydroxypropyl)-4-oxo-1,4-dihydropyridine-2-carboxylic acid 3-chlorobenzylamide (137 mg).

reactant | 3-benzyloxy-1-(2,2-dimethoxyethyl)-5-formyl-4-oxo-1,4-dihydropyridine-2-carboxylic acid 3-chlorobenzylamide | 168 mg | ClC=1C=C(CNC(=O)C=2N(C=C(C(C2OCC2=CC=CC=C2)=O)C=O)CC(OC)OC)C=CC1 | C25H25ClN2O6
reactant | ethylmagnesium bromide | 0.89 M, 1.09 ml | C(C)[Mg]Br
reactant | potassium hydrogen sulfate | S(=O)(=O)(O)[O-].[K+]
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | 3-benzyloxy-1-(2,2-dimethoxyethyl)-5-(1-hydroxypropyl)-4-oxo-1,4-dihydropyridine-2-carboxylic acid 3-chlorobenzylamide | 137 mg | ClC=1C=C(CNC(=O)C=2N(C=C(C(C2OCC2=CC=CC=C2)=O)C(CC)O)CC(OC)OC)C=CC1 | C27H31ClN2O6
